US07217723B2
[2-(4-Fluorophenyl)-2-hydroxyethyl]methylcarbamic acid t-butyl ester
A solution of 1-(4-fluorophenyl)-2-methylamino ethanol (the compound of Preparation Example 17) (9.7 g) and t-butylbicarbonate (10.0 g) in a mixed solvent of tetrahydrofuran solution (100 mL) and an aqueous solution of saturated sodium bicarbonate (50 mL) was stirred at room temperature for 1.5 hours. The solution was diluted with ethyl acetate, and washed with water and saturated sodium chloride water. After drying the organic layer with anhydrous sodium sulfate, the residue that was obtained by evaporating the solvent at reduced pressure was purified by silica gel column chromatography (hexane/ethyl acetate), and the title compound (9.5 g) was obtained as a colorless solid.

reactant | 1-(4-fluorophenyl)-2-methylamino ethanol | FC1=CC=C(C=C1)C(CNC)O | C9H12FNO
reactant | t-butylbicarbonate | 10.0 g | C(C)(C)(C)OC(O)=O | C5H10O3
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [2-(4-Fluorophenyl)-2-hydroxyethyl]methylcarbamic acid t-butyl ester | 9.5 g | C(C)(C)(C)OC(N(C)CC(O)C1=CC=C(C=C1)F)=O | C14H20FNO3
